US03950320
A solution of 3.55 g of (-)-3-methyl-6-{7-ethyl-4-hydroxy-6-hydroxyimino-3,5-dimethyl-7-[5-ethyl-3-methyl-5-(5-ethyl-5-hydroxy-6-methyl-2-tetrahydropyranyl)-2-tetrahydrofuryl]heptyl}salicylic acid, sodium salt in 100 ml methylene chloride was treated with 1N HCl. The solvent layer was separated, washed with water and concentrated under reduced pressure to a solid. A portion (1.3 g) of the solid, equal to 2.15 millimole, was dissolved in ether and treated with 4.25 millimole of an ethereal solution of diazomethane. At the end of 1 hour the solvent was removed at reduced pressure leaving an oil which upon standing under a high vacuum solidified to yield 3-methyl-6-{7-ethyl-4-hydroxy-6-hydroxyimino-3,5-dimethyl-7-[5-ethyl-3-methyl-5-(5-ethyl-5-hydroxy-6-methyl-2-tetrahydropyranyl)-2-tetrahydrofuryl]heptyl}salicylic acid, methyl ester, isomer A; [α]D25 + 5.77° (1.03%, CH3OH).

reactant | (-)-3-methyl-6-{7-ethyl-4-hydroxy-6-hydroxyimino-3,5-dimethyl-7-[5-ethyl-3-methyl-5-(5-ethyl-5-hydroxy-6-methyl-2-tetrahydropyranyl)-2-tetrahydrofuryl]heptyl}salicylic acid | 3.55 g | CC1=C(C(C(=O)O)=C(C=C1)CCC(C(C(C(C(C1OC(CC1C)(C1OC(C(CC1)(O)CC)C)CC)CC)=NO)C)O)C)O | C34H55NO8
reactant | sodium | [Na] | Na
reactant | HCl | 1N | Cl | ClH
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 3-methyl-6-{7-ethyl-4-hydroxy-6-hydroxyimino-3,5-dimethyl-7-[5-ethyl-3-methyl-5-(5-ethyl-5-hydroxy-6-methyl-2-tetrahydropyranyl)-2-tetrahydrofuryl]heptyl}salicylic acid, methyl ester | CC1=C(C(C(=O)OC)=C(C=C1)CCC(C(C(C(C(C1OC(CC1C)(C1OC(C(CC1)(O)CC)C)CC)CC)=NO)C)O)C)O | C35H57NO8
